US07834002B2
6-(t-Butyldimethylsilanyloxymethyl)pyridine-2-carboxaldehyde (4.29 g) was dissolved in 50 mL of DMF, and 7.14 g of (carbethoxymethylene)triphenylphosphorane was added to the solution, and then the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into ice-water, and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated to dryness under reduced pressure. To the residue, 100 mL of a mixture of hexane-ethyl acetate (5:1) was added, the insoluble material was filtrated off, and the filtrate was concentrated under reduced pressure. The residue was purified by chromatography on silica gel (hexane-ethyl acetate=10:1) to give 5.45 g of ethyl 3-[6-(t-butyldimethylsilanyloxymethyl)pyridin-2-yl]acrylate as a light yellow oil.

reactant | 6-(t-Butyldimethylsilanyloxymethyl)pyridine-2-carboxaldehyde | 4.29 g | [Si](C)(C)(C(C)(C)C)OCC1=CC=CC(=N1)C=O | C13H21NO2Si
reactant | (carbethoxymethylene)triphenylphosphorane | 7.14 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | ethyl 3-[6-(t-butyldimethylsilanyloxymethyl)pyridin-2-yl]acrylate | 5.45 g | [Si](C)(C)(C(C)(C)C)OCC1=CC=CC(=N1)C=CC(=O)OCC | C17H27NO3Si
